US05140011
In an analogous manner to that described in Example 9, 635 mg (1.78 mmol) of t-butyl [(4S,5S)-4-(cyclohexylmethyl)-5-(S)-2-isopropyl-4-(pivaloyloxy)butyl]-2,2-dimethyl-3-oxazolidinecarboxylate are treated with trifluoroacetic acid/water/methylene chloride for the cleavage of the Boc protecting group with simultaneous opening of the oxazolidine ring and the resulting 347 mg (76%) of (3S,5S,6S)-6-amino-7-cyclohexyl-5-hydroxy-3-isopropylheptyl pivaloate are reacted without further purification with Boc-Phe-His-OH, whereby there are obtained 280 mg (37%) of t-butyl [(S)-α-[[(RS)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-6-(pivaloyloxy)hexyl]carbamoyl]-2-imidazole-4-ylethyl]carbamoyl]phenethyl]carbamate as an amorphous solid, MS: 740 (M+H)+.

reactant | trifluoroacetic acid water methylene chloride | FC(C(=O)O)(F)F.O.C(Cl)Cl
reactant | (3S,5S,6S)-6-amino-7-cyclohexyl-5-hydroxy-3-isopropylheptyl pivaloate | 347 mg | C(C(C)(C)C)(=O)OCC[C@@H](C[C@@H]([C@H](CC1CCCCC1)N)O)C(C)C | C21H41NO3
reactant | Boc-Phe-His-OH | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)OC(C)(C)C | C20H26N4O5
product | t-butyl [(S)-α-[[(RS)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-6-(pivaloyloxy)hexyl]carbamoyl]-2-imidazole-4-ylethyl]carbamoyl]phenethyl]carbamate | 280 mg, 37% | C1(CCCCC1)C[C@@H]([C@H](C[C@H](CCOC(C(C)(C)C)=O)C(C)C)O)NC(=O)C(CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C41H65N5O7
